US07273936B2
A solution of 5-benzo[1,3]dioxol-5-yl-4-bromo-oxazole (156 mg, 0.58 mmol), 2-bromo-6-methyl-pyridine (100 mg, 0.58 mmol, 1 equiv), 1,1,1,2,2,2-hexamethyl-distannane (190 mg, 0.58 mmol, 1 equiv) and tetrakis(triphenylphosphine)palladium(0) (67 mg, 0.058 mmol, 0.1 equiv) in 1,4-dioxane (6 mL) was heated to reflux overnight. The resulting reaction mixture was cooled to ambient temperature and concentrated in vacuo. Silica gel chromatography (gradient from hexane to 30% ethyl acetate in hexane) provided 2-(5-Benzo[1,3]dioxol-5-yl-oxazol4-yl)-6-methyl-pyridine (114 mg, 70%).[LCMS: Rt=1.79 min, M+H=281.2]

reactant | 5-benzo[1,3]dioxol-5-yl-4-bromo-oxazole | 0.58 mmol, 156 mg | O1COC2=C1C=CC(=C2)C2=C(N=CO2)Br | C10H6BrNO3
reactant | 2-bromo-6-methyl-pyridine | 0.58 mmol, 100 mg, 1 equiv | BrC1=NC(=CC=C1)C | C6H6BrN
reactant | 1,1,1,2,2,2-hexamethyl-distannane | 0.58 mmol, 190 mg, 1 equiv | C[Sn]([Sn](C)(C)C)(C)C
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.058 mmol, 67 mg, 0.1 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(5-Benzo[1,3]dioxol-5-yl-oxazol4-yl)-6-methyl-pyridine | 114 mg, 70% | O1COC2=C1C=CC(=C2)C2=C(N=CO2)C2=NC(=CC=C2)C | C16H12N2O3
